US05250735
The procedure was similar to that in Example 4 by reacting benzaldehyde with the morpholine enamine of cyclopentanone to give 2-(E)-benzylidene cyclopentanone. The melting point of this intermediate compound was determined to be 67°-69° C. A subsequent Mannich reaction yielded the 2-Dimethylaminomethyl-5-(E)-benzylidene cyclopentanone hydrochloride. The melting point of the product was determined to be 153°-155° C.

reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | cyclopentanone | C1(CCCC1)=O | C5H8O
product | 2-(E)-benzylidene cyclopentanone | C(/C1=CC=CC=C1)=C/1\C(CCC1)=O | C12H12O
